US04313949
3-Benzoyl-2-(N-methylamino)-phenylacetamide
When in the procedure of Example 2, 3-benzoyl-2-(N-methylamino)-α-(methylthio)phenylacetamide is substituted for 2-amino-3-benzoyl-α-(methylthio)phenylacetamide, the title compound is obtained.

reactant | 3-benzoyl-2-(N-methylamino)-α-(methylthio)phenylacetamide | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1)C(C(=O)N)SC)NC | C17H18N2O2S
reactant | 2-amino-3-benzoyl-α-(methylthio)phenylacetamide | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)C(C(=O)N)SC | C16H16N2O2S
product | 3-Benzoyl-2-(N-methylamino)-phenylacetamide | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1)CC(=O)N)NC | C16H16N2O2
